### ISSUE TITLE
Navier-Stokes combined statement is classically provable from the A/C disjunction

### ISSUE THREAD

**Issue by shiyegao** [lean-dojo/LeanMillenniumPrizeProblems#5]
## Summary

The current top-level Navier-Stokes Millennium statement is exposed as a single disjunction:

```lean
def FeffermanMillenniumProblem : Prop :=
  MillenniumNSRDomain.FeffermanA ∨ FeffermanB ∨ MillenniumNSRDomain.FeffermanC ∨ FeffermanD
```

I think this combined proposition is too weak as a theorem target. In particular, because `FeffermanC` allows the forcing term to be the zero force, `¬ MillenniumNSRDomain.FeffermanA` appears to imply `MillenniumNSRDomain.FeffermanC`. Therefore, by classical case splitting on `FeffermanA`, the combined statement is provable without proving any of the intended hard Navier-Stokes alternatives directly.

This looks like a formulation issue with the combined statement, not a Lean kernel issue and not a problem with the individual definitions being unexpanded.

## Why this happens

At a high level:

- `FeffermanA` states global existence/smoothness on `R^3` for every smooth divergence-free initial datum, with zero force.
- Negating `FeffermanA` gives some smooth divergence-free initial datum for which no bounded-energy global smooth solution exists with zero force.
- `FeffermanC` asks for some smooth initial datum and some smooth decaying force for which no bounded-energy global smooth solution exists.
- The zero force satisfies the force regularity/decay condition `FeffermanCond5`.
- Therefore the witness from `¬FeffermanA`, together with the zero force, gives `FeffermanC`.
- Hence `FeffermanA ∨ FeffermanC`, and therefore the four-way disjunction, follows by classical excluded middle.

## Minimal reproduction

The following Lean file checks against the current repository at commit `540da94826f70f3edf4d4fc66ce6cda20e903f61` with Lean `v4.26.0`.

```lean
import Problems.NavierStokes.Millennium

namespace NavierStokesFormulationRepro

private abbrev zeroForceR3 : MillenniumNSRDomain.ForceFieldR3 :=
  fun _ => (0 : Euc ℝ 3)

private lemma zero_force_satisfies_cond5 :
    MillenniumNSRDomain.FeffermanCond5 zeroForceR3 := by
  constructor
  · simpa [zeroForceR3] using
      (contDiff_const : ContDiff ℝ ⊤ fun _ : Euc ℝ 4 => (0 : Euc ℝ 3))
  · intro α m K
    refine ⟨1, zero_lt_one, ?_⟩
    intro x hx
    have hveczero :
        MillenniumNSRDomain.spaceTimeDerivVec zeroForceR3 α m x = 0 := by
      ext i
      change
        iteratedPartialDeriv (n := 4)
          (List.replicate m 0 ++ List.map Fin.succ α)
          (0 : Euc ℝ 4 → ℝ) x = 0
      simp
    have hzero :
        ‖MillenniumNSRDomain.spaceTimeDerivVec zeroForceR3 α m x‖ = 0 := by
      rw [hveczero, norm_zero]
    have hnonneg :
        (0 : ℝ) ≤ 1 / (1 + ‖NavierStokes.getSpace x‖ + x 0) ^ K := by
      positivity
    rw [hzero]
    exact hnonneg

private lemma feffermanC_of_not_feffermanA :
    ¬ MillenniumNSRDomain.FeffermanA → MillenniumNSRDomain.FeffermanC := by
  intro hA
  unfold MillenniumNSRDomain.FeffermanA at hA
  push_neg at hA
  rcases hA with ⟨ν, ν_pos, u₀, hu₀, hdiv, hno⟩
  refine ⟨ν, ν_pos, u₀, zeroForceR3, hu₀, hdiv, zero_force_satisfies_cond5, ?_⟩
  intro hdiv'
  have hEq : hdiv' = hdiv := Subsingleton.elim _ _
  cases hEq
  simpa using hno

example : MillenniumNavierStokes.NavierStokesMillenniumProblem := by
  classical
  unfold MillenniumNavierStokes.NavierStokesMillenniumProblem
  unfold MillenniumNS_BoundedDomain.FeffermanMillenniumProblem
  by_cases hA : MillenniumNSRDomain.FeffermanA
  · exact Or.inl hA
  · exact Or.inr <| Or.inr <| Or.inl <| feffermanC_of_not_feffermanA hA

end NavierStokesFormulationRepro
```

## Expected behavior

The top-level Navier-Stokes Millennium target should not be provable merely by a classical case split on one of its alternatives. A proof of the public target should represent actual progress on one of the intended Fefferman statements.

## Suggested direction

I would suggest not using the four-way disjunction itself as a theorem target.

One safer approach is to expose the four Fefferman alternatives as separate formal targets:

```lean
MillenniumNSRDomain.FeffermanA
MillenniumNS_BoundedDomain.FeffermanB
MillenniumNSRDomain.FeffermanC
MillenniumNS_BoundedDomain.FeffermanD
```

A downstream scoreboard can still treat "any one of the four tracks is proved" as a meta-level success condition, for example by taking `max(score_A, score_B, score_C, score_D)`. But that aggregation should not itself be encoded as a Lean proposition of the form `A ∨ B ∨ C ∨ D`, because that reintroduces this classical proof path.

Another possible direction would be to refine the breakdown statements, for example by considering whether zero forcing should be excluded in `FeffermanC`. I am not sure that is the Clay-faithful mathematical choice, so separating the four tracks seems less intrusive.

**Comment by Robertboy18** [comment]
Thanks for the report. You were right: the top-level disjunction was too weak, because the zero-force case gives a classical path from `¬ FeffermanA` to `FeffermanC`.

I fixed this on `main` by removing the bundled disjunction as the public target and exposing the four Fefferman alternatives separately: A, B, C, and D. This keeps the individual Clay statements available while avoiding the classically provable aggregate proposition.! Closing as fixed: )!
